US09079911B2
Methyl 2-bromo-5-fluorobenzoate (1.0 g, 4.2 mmol) and (1H-pyrazol-5-yl)boronic acid (485 mg, 4.6 mmol) were combined and dissolved in degassed DME (15 ml) then treated with NaHCO3 (706 mg, 8.4 mmol) in water and the reaction purged with bubbling N2 for 5 minutes. The reaction was treated with Pd(PPh3)4 (243 mg (0.2 mmol) and then purged with bubbling for 5 minutes in a sealed vessel and then heated to reflux for 2 h. The reaction mixture was cooled to 23° C., filtered, and solid rinsed with EtOAc. The organic layers were separated, dried and concentrated. Purification via FCC (ethyl acetate/hexanes, 0-30%) afforded methyl 5-fluoro-2-(1H-pyrazol-5-yl)benzoate (415 mg, 44%).

reactant | Methyl 2-bromo-5-fluorobenzoate | 4.2 mmol, 1.0 g | BrC1=C(C(=O)OC)C=C(C=C1)F | C8H6BrFO2
reactant | (1H-pyrazol-5-yl)boronic acid | 4.6 mmol, 485 mg | N1N=CC=C1B(O)O | C3H5BN2O2
reactant | NaHCO3 | 8.4 mmol, 706 mg | C(=O)(O)[O-].[Na+]
solvent | DME | 15 ml | COCCOC | C4H10O2
solvent | water | O | H2O
product | methyl 5-fluoro-2-(1H-pyrazol-5-yl)benzoate | 415 mg, 44% | FC=1C=CC(=C(C(=O)OC)C1)C1=CC=NN1 | C11H9FN2O2
